Delay

V1 1 0 5
V2 2 0 pulse (0 5 5n 10p 10p 5n 10n)

*Mnumber d g s b model W=w L=l 
M1 3 2 0 0 NMOS W=1u L=0.09u
M2 3 2 1 1 PMOS W=1u L=0.09u

R1 3 4 1
C1 4 0 0.1p
 
M3 5 4 0 0 NMOS W=10u L=0.9u
M4 5 4 1 1 PMOS W=10u L=0.9u

.tran 1p 10n